US08802697B2
Synthesis of 2-chloro-6-(3,5-dimethoxyphenyl)-7-methoxyquinazoline
A mixture of 6-bromo-2-chloro-7-methoxyquinazoline (2.4 g, 8.82 mmol), 3,5-dimethoxyphenylboronic acid (1.6 g, 8.82 mmol), cerium carbonate (8.6 g, 26.46 mmol) and Pd(PPh3)2Cl2 (1.4 g, 2.1 mmol) in THF (10 mL), dioxane (10 mL) and water (2 mL) was degassed with nitrogen three times and stirred at 85° C. for 3 h. LCMS monitored the reaction was completed. The mixture was cooled to RT and extracted with dichloromethane (3×50 mL). The organic layers were separated, combined, washed with water and brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=1:4) to give the title compound (1.1 g, 38%) as a white solid. MS (ES+) C17H15ClN2O3 requires: 330, 332. found: 331, 333 [M+H]+.

reactant | 6-bromo-2-chloro-7-methoxyquinazoline | 8.82 mmol, 2.4 g | BrC=1C=C2C=NC(=NC2=CC1OC)Cl | C9H6BrClN2O
reactant | 3,5-dimethoxyphenylboronic acid | 8.82 mmol, 1.6 g | COC=1C=C(C=C(C1)OC)B(O)O | C8H11BO4
reactant | cerium carbonate | 26.46 mmol, 8.6 g | C([O-])([O-])=O.[Ce+3].C([O-])([O-])=O.C([O-])([O-])=O.[Ce+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 2.1 mmol, 1.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-6-(3,5-dimethoxyphenyl)-7-methoxyquinazoline | 1.1 g, 38% | ClC1=NC2=CC(=C(C=C2C=N1)C1=CC(=CC(=C1)OC)OC)OC | C17H15ClN2O3
